US08058273B2
4-bromo-2-methoxybenzaldehyde (1 g, 4.67 mmol) was dissolved in MeOH (20 ml) and trimethyl orthoformate (562 μl, 5.139 mmol) and p-toluene sulphonic acid monohydrate (89 mg, 0.467 mmol) were added to the resulting solution. The mixture was stirred overnight at room temperature and then the solvent was removed under vacuo. The residue was taken up with Et2O and washed with 5% Na2CO3 and with water. The organic phase was dried over Na2SO4 and evaporated to give 1.22 g of 4-bromo-1-dimethoxymethyl-2-methoxy-benzene as a colorless oil.

reactant | 4-bromo-2-methoxybenzaldehyde | 4.67 mmol, 1 g | BrC1=CC(=C(C=O)C=C1)OC | C8H7BrO2
reactant | trimethyl orthoformate | 5.139 mmol, 562 μl | C(OC)(OC)OC | C4H10O3
reactant | p-toluene sulphonic acid monohydrate | 0.467 mmol, 89 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | MeOH | 20 ml | CO | CH4O
product | 4-bromo-1-dimethoxymethyl-2-methoxy-benzene | 1.22 g, Yield=99% | BrC1=CC(=C(C=C1)C(OC)OC)OC | C10H13BrO3
